US04490369
(b) 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(3-{3,4-dimethoxy-phenyl}-propyl)-amino]-propane hydrochloride
A mixture of 5.55 gm (0.0186 mol) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane, 2.6 ml (0.0886 mol) of triethylamine and 3.9 gm (0.0186 mol) of N-methyl-3-(3,4-dimethoxy-phenyl) propylamine was heated at 85° C. for 4 hours, then cooled and dissolved in methylene chloride/water. The organic phase was separated, extracted with water, dried over magnesium sulfate, concentrated by evaporation in vacuo, and the residue was purified on silica gel, using methylene chloride plus 3% ethanol as the eluant. The oily free base product thus obtained was dissolved in acetone, and the hydrochloride was precipitated with ethereal hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane | 0.0186 mol, 5.55 gm | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | triethylamine | 0.0886 mol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-3-(3,4-dimethoxy-phenyl) propylamine | 0.0186 mol, 3.9 gm | CNCCCC1=CC(=C(C=C1)OC)OC | C12H19NO2
solvent | methylene chloride water | C(Cl)Cl.O
solvent | acetone | CC(=O)C | C3H6O
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(3-{3,4-dimethoxy-phenyl}-propyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | InChI=1S/C27H38N2O5.ClH/c1-28(12-6-8-20-9-10-23(31-2)24(16-20)32-3)13-7-14-29-15-11-21-17-25(33-4)26(34-5)18-22(21)19-27(29)30;/h9-10,16-18H,6-8,11-15,19H2,1-5H3;1H
